US08420690B2
b) 2-amino-1-(1-naphthalenyl)ethanol
To a solution of hydroxy(1-naphthalenyl)acetonitrile (1.67 g, 9.14 mol) in THF (90 mL) at 0° C. was added dropwise a solution of LAH-THF (1M, 11 mL, 11 mmol). After 2 hrs, the solution was quenched by sequential addition of H2O (0.42 mL), 6N NaOH (6M, 0.32 mL) and H2O (1.6 mL). The resulting precipitate was filtered and the filtrate was concentrated and used directly yielding the title compound (0.90 g, 4.8 mmol, 53%) as a clear oil: LCMS (ES) m/z 188 (M+H)+.

reactant | hydroxy(1-naphthalenyl)acetonitrile | 9.14 mol, 1.67 g | OC(C#N)C1=CC=CC2=CC=CC=C12 | C12H9NO
reactant | LAH THF | 11 mmol, 1M, 11 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3].C1CCOC1
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 2-amino-1-(1-naphthalenyl)ethanol | 4.8 mmol, 0.90 g, 53% | NCC(O)C1=CC=CC2=CC=CC=C12 | C12H13NO
